US04083997
To a well stirred suspension of 45 g. of zinc dust, 90 ml. of concentrated ammonium hydroxide, 45 ml. of water and 2 ml. of cupric sulfate maintained at 80° C. there is added 14.75 g. (0.05 mole) of 3-(2-dimethylaminoethyl)-3,4-dihydro-3-phenylisocoumarin in 50 ml. ethanol for about 30 minutes. The resulting mixture is heated at 85° C. for 30 hours while a slow stream of ammonia is passed through. The mixture is filtered while under heat and the solids washed throughly with 100 ml. of hot ammonium hydroxide. The combined filtrates are cooled and carefully acidified with concentrated hydrochloric acid to give 2-(β-[-2-dimethylaminoethyl]phenethyl)benzoic acid, m.p. 152° to 154° C.

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | O | H2O
reactant | 3-(2-dimethylaminoethyl)-3,4-dihydro-3-phenylisocoumarin | 0.05 mole | CN(CCC1(OC(=O)C2=CC=CC=C2C1)C1=CC=CC=C1)C | C19H21NO2
reactant | ammonia | N | H3N
catalyst | zinc | [Zn] | Zn
solvent | ethanol | C(C)O | C2H6O
product | 2-(β-[-2-dimethylaminoethyl]phenethyl)benzoic acid | CN(CCC(CC1=C(C(=O)O)C=CC=C1)C1=CC=CC=C1)C | C19H23NO2
